US08802696B2
To a 1 L round-bottom flask was added 2-amino-5-bromopyridine (100 g, 578 mmol), DMF-DMA (101 mL, 751 mmol) and 2-propanol (200 mL). The mixture was heated to reflux for 3 h to give a clear dark solution. It was then cooled to 50° C. and hydroxylamine hydrochloride (52.2 g, 751 mmol) was added. The mixture was stirred at 50° C. overnight to give a yellow suspension. The precipitate was collected by filtration. The black filtrate was concentrated and the residue was stirred in EtOH (20 mL) for 20 min. The solid was collected by filtration. The combined solids were dried in an oven to give N-(5-bromopyridin-2-yl)-N′-hydroxyformimidamide as a sandy solid (94 g, 75% yield).

reactant | 2-amino-5-bromopyridine | 578 mmol, 100 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | DMF-DMA | 751 mmol, 101 mL | CN(C)C(OC)OC | C5H13NO2
reactant | hydroxylamine hydrochloride | 751 mmol, 52.2 g | Cl.NO
solvent | 2-propanol | 200 mL | CC(C)O | C3H8O
product | N-(5-bromopyridin-2-yl)-N′-hydroxyformimidamide | 94 g, 75% yield | BrC=1C=CC(=NC1)NC=NO | C6H6BrN3O
